US08471005B2
Into a microwave vial, 2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenol (0.165 g, 0.604 mmol), 4-(4-Methyl-piperazin-1-yl)-phenylamine (0.254 g, 1.33 mmol), 1-Methoxy-2-propanol (1.20 mL) and N,N-Diisopropylethylamine (0.231 mL, 1.33 mmol) were added. The reaction was microwaved on 300 watts, 180° C. for 2 hours. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 10% methanol). The collected fractions afforded 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenol as a yellow solid (125 mg, 51%). LCMS (E/I+) 401.10 (M+H). NMR 1H (DMSO-d6)-9.73 (s, 1H), 9.13 (s, 1H), 8.88 (s, 1H), 7.92 (d, 1H, J=7.74 Hz), 7.61 (d, 2H, J=8.23 Hz), 7.25 (t, 1H, J=7.26 Hz), 6.93-7.08 (m, 3H), 6.88 (d, 1H, J=4.35 Hz), 6.81 (d, 2H, J=8.23 Hz), 3.03 (bs, 4H), 2.44 (bs, 3H), 2.21 (s, 3H).

reactant | 2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenol | 0.604 mmol, 0.165 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)O | C13H11N3O2S
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 1.33 mmol, 0.254 g | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 1-Methoxy-2-propanol | 1.20 mL | COCC(C)O | C4H10O2
reactant | N,N-Diisopropylethylamine | 1.33 mmol, 0.231 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenol | 125 mg, 51% | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)O | C23H24N6O
